US08729263B2
To a solution of (S)-6-((S)-1-hydroxyethyl)-2,2-dimethylpiperidin-4-one (0.11 g, 0.64 mmol) in DMF (3 mL) were added imidazole (0.13 g, 1.93 mmol) and TBSCl (0.14 g, 0.96 mmol). The mixture was stirred overnight. The reaction mixture was diluted with water (10 mL) and extracted with EtOAc (20 mL). The extract was washed with brine, dried over Na2SO4, and concentrated in vacuo. The residue was purified by column chromatography (EtOAc/Heptane) to afford 65 mg (35%) of (S)-6-((S)-1-(tert-butyldimethylsilyloxy)ethyl)-2,2-dimethylpiperidin-4-one: 1H NMR (400 MHz, CHLOROFORM-d) δ 3.99 (dq, J=6.3, 2.8 Hz, 1H), 2.96-3.04 (m, 1H), 2.21-2.32 (m, 3H), 2.13 (d, J=13.1 Hz, 1H), 1.26 (s, 3H), 1.12 (d, J=6.1 Hz, 3H), 1.05 (s, 3H), 0.91 (s, 9H), 0.12 (s, 3H), 0.09 (s, 3H).

reactant | (S)-6-((S)-1-hydroxyethyl)-2,2-dimethylpiperidin-4-one | 0.64 mmol, 0.11 g | O[C@@H](C)[C@@H]1CC(CC(N1)(C)C)=O | C9H17NO2
reactant | imidazole | 1.93 mmol, 0.13 g | N1C=NC=C1 | C3H4N2
reactant | TBSCl | 0.96 mmol, 0.14 g | CC(C)(C)[Si](C)(C)Cl | C6H15ClSi
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | water | 10 mL | O | H2O
product | (S)-6-((S)-1-(tert-butyldimethylsilyloxy)ethyl)-2,2-dimethylpiperidin-4-one | 65 mg, 35% | [Si](C)(C)(C(C)(C)C)O[C@@H](C)[C@@H]1CC(CC(N1)(C)C)=O | C15H31NO2Si
